US07935815B2
A 5 N sodium hydroxide solution (2.5 ml) was added to a solution of methyl 5-chloro-2-cyclohexyl-valerate (1.00 g) in THF (3 ml)-methanol (6 ml). The reaction solution was stirred at room temperature for six hours and at 60° C. for further two hours. After allowing the reaction solution to cool, water and diethyl ether were added to the reaction solution, and the aqueous layer was separated. 5 N hydrochloric acid (2.6 ml) and ethyl acetate were added to the aqueous layer, and the organic layer was separated. The ethyl acetate extraction layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 5-chloro-2-cyclohexyl-valeric acid (287 mg).

reactant | sodium hydroxide | 5 N, 2.5 ml | [OH-].[Na+]
reactant | methyl 5-chloro-2-cyclohexyl-valerate | 1.00 g | ClCCCC(C(=O)OC)C1CCCCC1 | C12H21ClO2
reactant | methanol | 6 ml | CO | CH4O
reactant | water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-chloro-2-cyclohexyl-valeric acid | 287 mg | ClCCCC(C(=O)O)C1CCCCC1 | C11H19ClO2
